US07173135B2
iii) Preparation of 3-cyano-7-fluoro-4-hydroxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline
A mixture of 3-cyano-5,7-difluoro-4-hydroxyquinoline (4.12 g), 1-methylpiperidin-4-ol (2.6 g) and potassium tert-butoxide (6.72 g) in anhydrous tetrahydrofuran (250 ml) was stirred and heated at 60° C. for 2 hours. Acetic acid was added until pH6 was reached and then the solution was evaporated to dryness. The residue was dissolved in a mixture of dichloromethane and methanol (2:1) and the solution added to powdered silica gel (15 g). The suspension was evaporated to dryness and powder was packed into a preload cartridge. This was then chromatographed with an Isco Combiflash system and a Biotage 40M silica cartridge using a gradient elution of 0.6% to 30% ammonia (7.0M in methanol) in dichloromethane. The fractions containing the product were combined and evaporated. This gave the title compound as a white foam (3.55 g, 59%); NMR spectrum: (DMSOd6) 1.77 (m, 2H), 1.92 (m, 2H), 2.30 (s, 3H), 2.43 (m, 2H), 2.81 (m, 2H), 4.55 (m, 1H), 6.81 (m, 2H), 8.40 (s, 1H), Mass spectrum: M+H+ 302.

reactant | 3-cyano-5,7-difluoro-4-hydroxyquinoline | 4.12 g | C(#N)C=1C=NC2=CC(=CC(=C2C1O)F)F | C10H4F2N2O
reactant | 1-methylpiperidin-4-ol | 2.6 g | CN1CCC(CC1)O | C6H13NO
reactant | potassium tert-butoxide | 6.72 g | CC(C)([O-])C.[K+]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3-cyano-7-fluoro-4-hydroxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline | 3.55 g, 59% | C(#N)C=1C=NC2=CC(=CC(=C2C1O)OC1CCN(CC1)C)F | C16H16FN3O2
